US07585885B2
Isobutyryl-N-methyl-N-propyl-isophthalamic acid
Dissolve 5-isobutyryl-N-methyl-N-propyl-isophthalamic acid methyl ester (50 mg, 0.16 mmol) in methanol (3 mL) and add dropwise 2 N NaOH (0.16 mL). Stir the mixture at room temperature for 6 h, store overnight at 4° C. and acidify to about pH=6 by 5 N HCl. Concentrate to near dryness and dilute the residue with ethyl acetate. Wash with saturated aqueous sodium chloride solution and extract the organic layer, dry (magnesium sulfate) and concentrate to give the title compound.

reactant | 5-isobutyryl-N-methyl-N-propyl-isophthalamic acid methyl ester | 0.16 mmol, 50 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C(C)C)=O)=O | C17H23NO4
reactant | NaOH | 2 N, 0.16 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | Isobutyryl-N-methyl-N-propyl-isophthalamic acid | C(C(C)C)(=O)C1=C(C(=O)O)C=CC=C1C(=O)N(CCC)C | C16H21NO4
